US08207177B2
Step a: tert-butyl(aminosulfonyl)[((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methyl]carbamate
((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol (700.0 mg, 0.001462 mol), N-Boc-sulfonamide (398 mg, 0.00203 mol) and triphenylphosphine (575 mg, 0.00219 mol) were dissolved in ethyl acetate (28 mL, 0.28 mol) at 50° C. under an atmosphere of nitrogen. Diethyl azodicarboxylate (350.0 μL, 0.002223 mol) was added over 2-3 min and the mixture was stirred at 50° C. for 30 minutes. The cooled mixture was evaporated and the residue purified by silica gel chromatography, eluting with 10 to 100% ethyl acetate in hexanes, to yield the product as a white solid, 636 mg (66%). LC/MS: Rt=2.55 min, ES+ 657 (AA standard).

reactant | ((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol | 0.001462 mol, 700.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CO | C27H38N4O2Si
reactant | N-Boc-sulfonamide | 0.00203 mol, 398 mg | C(=O)(OC(C)(C)C)NS(=O)=O | C5H11NO4S
reactant | triphenylphosphine | 0.00219 mol, 575 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | 0.28 mol, 28 mL | C(C)(=O)OCC | C4H8O2
reactant | Diethyl azodicarboxylate | 0.002223 mol, 350.0 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | tert-butyl(aminosulfonyl)[((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methyl]carbamate | C(C)(C)(C)OC(N(C[C@H]1[C@H](C[C@@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)O[Si](C)(C)C(C)(C)C)S(=O)(=O)N)=O | C32H48N6O5SSi
